US05545630
6,6-Difluorohex-5-enoic acid methyl ester
42.1 g of 6,6-difluorohex-5-enoic acid chloride are added slowly at 10° to 17.6 g of pyridine in 200 ml of methanol. The mixture is then stirred at room temperature for 5 hours. The excess methanol is evaporated off in a rotary evaporator and the residue is taken up in tert-butyl methyl ether and washed with water. The organic phase is dried over sodium sulfate and concentrated to dryness by evaporation. The residue is distilled at 60 mbar. The title compound is obtained in the form of a colourless oil.

reactant | 6,6-difluorohex-5-enoic acid chloride | 42.1 g | FC(=CCCCC(=O)Cl)F | C6H7ClF2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methanol | 200 ml | CO | CH4O
product | 6,6-Difluorohex-5-enoic acid methyl ester | COC(CCCC=C(F)F)=O | C7H10F2O2
